US07700641B2
B. Synthesis of 3-(2-hydroxy-4-methoxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 15B, and making non-critical variations to replace 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one with 3-(5-bromo-2-hydroxy-4-methoxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one, the title compound was obtained (83%): 1H NMR (300 MHz, CDCl3) δ 9.78-9.20 (br, 1H), 7.43-7.31 (m, 2H), 7.19 (t, 1H), 6.97 (d, 1H), 6.79 (d, 1H), 6.70-6.64 (m, 1H), 6.38 (dd, 1H), 5.02 (s, 1H), 3.77 (s, 3H), 3.70 (t, 2H), 1.75-1.63 (m, 2H), 1.40-1.25 (m, 4H), 0.87 (t, 3H); MS (ES+) m/z 326 (M+1).

reactant | 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1(C(N(C2=CC=CC=C12)CCCCC)=O)O)O | C19H20BrNO3
reactant | 3-(5-bromo-2-hydroxy-4-methoxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC=1C(=CC(=C(C1)C1(C(N(C2=CC=CC=C12)CCCCC)=O)O)O)OC | C20H22BrNO4
product | 3-(2-hydroxy-4-methoxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | OC1=C(C=CC(=C1)OC)C1C(N(C2=CC=CC=C12)CCCCC)=O | C20H23NO3
